US06559145B2
Methyl 1-Methyl-6-(4-morpholinylmethyl)-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-Dioxide [BX.7]
N-Bromosuccinimide (0.239 g) and methyl 1,6-dimethyl-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-dioxide (Preparation 40, 0.30 g) are dissolved in dichloroethane (100 mL). The solution is exposed to light from a 650 W sunlamp with stirring for 25 minutes. The solvent is evaporated and the crude solid obtained is dissolved in DMF (8 mL). Morpholine (0.43 g) is added and the mixture is stirred for 3 hours. The mixture is poured into CH2Cl2 (200 mL) and washed with water (3×200mL). The organic layer is dried with Na2SO4, filtered and the solvent evaporated. The crude solid is chromatographed with MeOH/CH2Cl2 (1-5%) to obtain 0.23 g (59%) of the title compound as an off-white solid. Physical characteristics: MS (ESI+) m/z 254 (M+H).

reactant | N-Bromosuccinimide | 0.239 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 1,6-dimethyl-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-dioxide | 0.30 g | CN1N=C(S(C2=C1C=CC(=C2)C)(=O)=O)C(=O)OC | C11H12N2O4S
reactant | Morpholine | 0.43 g | N1CCOCC1 | C4H9NO
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Methyl 1-Methyl-6-(4-morpholinylmethyl)-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-Dioxide | 0.23 g, 59% | CN1N=C(S(C2=C1C=CC(=C2)CN2CCOCC2)(=O)=O)C(=O)OC | C15H19N3O5S
